US05149807
1,2,3,4-Tetrahydro-1-methyl-6-nitroso-7-hydroxyquinoline hydrochloride.
A mixture of 24.5 g (0.15 mol) of 1-methyl-1,2,3,4-tetrahydro-7-hydroxyquinoline, 75 ml of water and 75 ml of concentrated hydrochloric acid was stirred and cooled in an ice bath to 5°. To this mixture was added dropwise during 40 minutes a solution of 12.42 g(0.18 mol) of sodium nitrite in 50 ml of water while maintaining the temperature between 3 to 5° C. It was occasionally necessary to add a few ml of ether to control foaming. When the addition was complete, the reaction mixture was stirred for 40 min in the ice bath. The solid was collected and rinsed with 2N hydrochloric acid and with ether. It was recrystallized from 700 ml of 2.4 N hydrochloric acid to give 28.7 g (84%) of crude product as brown needles.

reactant | 1-methyl-1,2,3,4-tetrahydro-7-hydroxyquinoline | 0.15 mol, 24.5 g | CN1CCCC2=CC=C(C=C12)O | C10H13NO
reactant | hydrochloric acid | 75 ml | Cl | ClH
reactant | sodium nitrite | 0.18 mol, 12.42 g | N(=O)[O-].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
solvent | water | 75 ml | O | H2O
product | 1,2,3,4-Tetrahydro-1-methyl-6-nitroso-7-hydroxyquinoline hydrochloride | 28.7 g, 84% | Cl.CN1CCCC2=CC(=C(C=C12)O)N=O | InChI=1S/C10H12N2O2.ClH/c1-12-4-2-3-7-5-8(11-14)10(13)6-9(7)12;/h5-6,13H,2-4H2,1H3;1H
